US07125901B2
Methyl 2-(acetylamino)-5-phenyl-1,3-thiazole-4-carboxylate (2.34 g) was suspended in THF (23 ml), and then lithium aluminium hydride (482 mg) was added portionwise to the solution at 0° C. The reaction mixture was stirred at 0° C. for 1.5 hours and quenched with MeOH. AcOEt and 1N HCl were added to the mixture, and the mixture was extracted. The aqueous layer was extracted with AcOEt (twice). The combined organic layer was washed with brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residual solid was dissolved in MeOH (5 ml) and CHCl3 (90 ml). Then manganase(IV) oxide (11 g) was added to the solution under N2 atmosphere. The reaction mixture was stirred at r.t. for 13 hours, and filtered through a celite pad. The filtrate was concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with CHCl3/MeOH (20:1) as an eluent to give N-(4-formyl-5-phenyl-1,3-thiazol-2-yl)acetamide (705.2 mg) as a brown amorphous substance.

reactant | Methyl 2-(acetylamino)-5-phenyl-1,3-thiazole-4-carboxylate | 2.34 g | C(C)(=O)NC=1SC(=C(N1)C(=O)OC)C1=CC=CC=C1 | C13H12N2O3S
reactant | lithium aluminium hydride | 482 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 23 ml | C1CCOC1 | C4H8O
product | N-(4-formyl-5-phenyl-1,3-thiazol-2-yl)acetamide | 705.2 mg | C(=O)C=1N=C(SC1C1=CC=CC=C1)NC(C)=O | C12H10N2O2S
